US05424329
N, 1-Dimethyl-5-methoxy-3-(methylthio)-1H-indole-2-carboxamide
Prepared from 5-methoxy-1-methyl-3-(methylthio)-1H-indole-2-carboxylic acid by the procedure of Example 1 with 40% aqueous methylamine solution substituted for ammonium hydroxide. Yield 45% after recrystallization from ethyl acetate-hexane; mp 137°-139° C.

reactant | 5-methoxy-1-methyl-3-(methylthio)-1H-indole-2-carboxylic acid | COC=1C=C2C(=C(N(C2=CC1)C)C(=O)O)SC | C12H13NO3S
reactant | methylamine | CN | CH5N
reactant | ammonium hydroxide | [OH-].[NH4+]
product | N, 1-Dimethyl-5-methoxy-3-(methylthio)-1H-indole-2-carboxamide | Yield 45% | CNC(=O)C=1N(C2=CC=C(C=C2C1SC)OC)C | C13H16N2O2S
